US05298625
A. 4-Chloro-3-[(trimethylsilyl)oxy]-2-butenic acid, ethyl ester
To a solution of ethyl 4-chloro-3-oxobutanoate (30 g, 0.183 mol, 24.7 mL) and trimethylsilyl chloride (30.2 mL, 0.234 mol) in tetrahydrofuran (360 mL) was added dropwise triethylamine (30.61 mL, 0.23 mol) at -20° C. with mechanical stirring. After the addition was complete (~15 minutes), the mixture was stirred for an additional 30 minutes at -20° C., 30 minutes at 0° C., and then one hour at room temperature. The reaction was diluted with a large excess of hexane (1 L). The resulting precipitate was filtered and the solution was concentrated on a rotavap to an oily residue. It was diluted with hexane (400 mL), filtered and the filtrate was concentrated on a rotavap to an oily residue. This process was repeated until no further precipitation occurred. Distillation of the residue (b.p. 70° C. to 78° C./1 mm Hg) gave the title compound (33 g, 80%) as a mixture of cis,trans isomers.

reactant | ethyl 4-chloro-3-oxobutanoate | 0.183 mol, 24.7 mL, 30 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | trimethylsilyl chloride | 0.234 mol, 30.2 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 0.23 mol, 30.61 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | 1 L | CCCCCC | C6H14
solvent | tetrahydrofuran | 360 mL | O1CCCC1 | C4H8O
product | 4-Chloro-3-[(trimethylsilyl)oxy]-2-butenic acid, ethyl ester | 33 g, 80% | ClCC(=CC(=O)OCC)O[Si](C)(C)C | C9H17ClO3Si
